US06498156B2
1.22 g of 4-[3-[3-(4-fluorophenyl)-3-hydroxypropyl]-2-(4-methoxyphenyl)-4-oxoazetidin-1-yl]benzonitrile are dissolved in 90 ml of ethanol, 10 ml of conc. ammonia solution and an excess of Raney nickel are added and the mixture is stirred at 60° C. and a hydrogen pressure of 10 bar for 8 h. The reaction mixture is allowed to cool to room temperature overnight; the next day, the catalyst is removed, the filtrate is concentrated under reduced pressure and the residue is purified by silica gel gives 1-(4-aminomethylphenyl)-3-[3-(4-fluorophenyl)-3-hydroxypropyl]-4-(4-methoxyphenyl)azetidin-2-one of molecular weight 434.51 (C26H27FN2O3); MS (ESI): 418.2 (MH+−NH3).

reactant | 4-[3-[3-(4-fluorophenyl)-3-hydroxypropyl]-2-(4-methoxyphenyl)-4-oxoazetidin-1-yl]benzonitrile | 1.22 g | FC1=CC=C(C=C1)C(CCC1C(N(C1=O)C1=CC=C(C#N)C=C1)C1=CC=C(C=C1)OC)O | C26H23FN2O3
reactant | ammonia | 10 ml | N | H3N
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 90 ml | C(C)O | C2H6O
catalyst | Raney nickel | [Ni] | Ni
product | 1-(4-aminomethylphenyl)-3-[3-(4-fluorophenyl)-3-hydroxypropyl]-4-(4-methoxyphenyl)azetidin-2-one | NCC1=CC=C(C=C1)N1C(C(C1C1=CC=C(C=C1)OC)CCC(O)C1=CC=C(C=C1)F)=O | C26H27FN2O3
